US05245085
A solution of 6,10-dimethyl-11-(methoxymethyl)oxy-5,9-undecadien-2-one (67 mg, 0.26 mmol) in tetrahydrofuran (2 ml) was stirred on an ice bath under argon atmosphere. To the solution was added lithium acetylide ethylenediamine complex (30 mg, 0.33 mmol), and the mixture was warmed to room temperature and stirred for 3 hours. After addition of saturated aqueous ammonium chloride (2 ml), the reaction mixture was extracted with ether. The extract was dried over Na2SO4 and evaporated in vacuo to remove the solvent to give a crude product, which was purified with silica gel column chromatography to obtain 3,7,11-trimethyl-12-(methoxymethyl)oxy-6,10-dodecadien-1-in- 3-ol (61 mg, 83%).

reactant | 6,10-dimethyl-11-(methoxymethyl)oxy-5,9-undecadien-2-one | 0.26 mmol, 67 mg | CC(=CCCC(C)=O)CCC=C(COCOC)C | C15H26O3
reactant | ammonium chloride | 2 ml | [Cl-].[NH4+]
reactant | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3,7,11-trimethyl-12-(methoxymethyl)oxy-6,10-dodecadien-1-in- 3-ol | 61 mg, 83% | CC(C#C)(CCC=C(CCC=C(COCOC)C)C)O | C17H28O3
